US06579875B1
To a stirred solution of (2-methyl-2H-1,2,4-triazol-3-yl)methanol (0.2206 g, 1.95 mmol) in anhydrous DMF (6 ml) under nitrogen was added sodium hydride (60% dispersion in oil, 77.7 mg, 1.94 mmol) and the mixture was stirred at room temperature for 20 min. The mixture was then cooled in an ice-water bath and a solution of 6-chloro-3-(2-fluorophenyl)-7-(1-hydroxycyclobutyl)-1,2,4-triazolo[4,3-b]pyridazine (0.2573 g, 0.807 mmol) in anhydrous DMF (5 ml) was added dropwise over min. The mixture was stirred for 20 min under nitrogen, then poured into saturated aqueous NH4Cl (50 ml), saturated aqueous NaCl (25 ml), and dichloromethane (75 ml). The aqueous layer was further extracted with dichloromethane (2×50 ml), and the combined organic extracts were dried (Na2SO4) and evaporated in vacuo. The residue was purified by flash chromatography (silica gel, 3-5% MeOH/CH2Cl2) to afford 0.2793 g of 3-(2-fluorophenyl)-7-(1-hydroxycyclobutyl)-6-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-1,2,4-triazolo[4,3-b]pyridazine (containing approximately 20% of (2-methyl-2H-1,2,4-triazol-3-yl)methanol starting material) as a colourless solid; 1H NMR (360 MHz, CDCl3) δ1.74 (1H, m), 2.17 (1H, m), 2.43 (2H, m), 2.60 (2H, m), 3.82 (3H, s), 5.58 (2H, s), 7.27 (1H, t, J=9.6 Hz), 7.36 (1H, t, J=7.5 Hz), 7.58 (1H, m), 7.82 (1H, m), 7.85 (1H, s), 8.01 (1H, s); MS (ES+) m/e 396 [MH]+, 114.

reactant | (2-methyl-2H-1,2,4-triazol-3-yl)methanol | 1.95 mmol, 0.2206 g | CN1N=CN=C1CO | C4H7N3O
reactant | sodium hydride | 1.94 mmol, 77.7 mg | [H-].[Na+]
reactant | 6-chloro-3-(2-fluorophenyl)-7-(1-hydroxycyclobutyl)-1,2,4-triazolo[4,3-b]pyridazine | 0.807 mmol, 0.2573 g | ClC=1C(=CC=2N(N1)C(=NN2)C2=C(C=CC=C2)F)C2(CCC2)O | C15H12ClFN4O
reactant | NH4Cl | 50 ml | [NH4+].[Cl-]
reactant | NaCl | 25 ml | [Na+].[Cl-]
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | 3-(2-fluorophenyl)-7-(1-hydroxycyclobutyl)-6-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-1,2,4-triazolo[4,3-b]pyridazine | 0.2793 g, approximately 20% | FC1=C(C=CC=C1)C1=NN=C2N1N=C(C(=C2)C2(CCC2)O)OCC=2N(N=CN2)C | C19H18FN7O2
